* LMR51430 datasheet-model load-step exercise; exploratory only.
.include ../model.lib
.param VINSET=15 CIN=10u COUT=44u LVAL=5.6u ILOW=.05 IHIGH=.5
V_IN in 0 PWL(0 0 1m {VINSET} 20m {VINSET})
R_SOURCE in vin_node 100m
C_IN vin_node 0 {CIN}
V_LOAD out load 0
V_LOADCMD loadcmd 0 PWL(0 {ILOW} 6m {ILOW} {6m+(IHIGH-ILOW)/100k} {IHIGH} 9m {IHIGH} {9m+(IHIGH-ILOW)/100k} {ILOW} 12m {ILOW})
B_LOAD load 0 I={max(0,min(1,v(load)/0.1))*v(loadcmd)}
R_ESR out cap 5m
C_OUT cap 0 {COUT}
C_HF out 0 100n
L_OUT sw l_out {LVAL}
R_DCR l_out out 10m
R_FBTOP out fb 100k
R_FBBOT fb 0 22.1k
C_BOOT boot sw 100n
V_GND0 GND0 0 0
X_U3 vin_node sw GND0 fb vin_node boot LMR51430XDDCR
.save time v(out) v(in) v(vin_node) i(V_IN) i(V_LOAD) i(L_OUT) v(fb) v(sw)
.options method=gear reltol=1e-4 abstol=1e-9 vntol=1e-6
.temp 25
.tran 20n 20m 0 20n uic
.control
set filetype=binary
run
let pin = -v(in)*i(V_IN)
let pout = v(out)*i(V_LOAD)
meas tran vout_pre AVG v(out) FROM=5m TO=5.9m
meas tran vout_high AVG v(out) FROM=7.5m TO=8.5m
meas tran vout_post AVG v(out) FROM=9.5m TO=11m
meas tran iload_pre AVG i(V_LOAD) FROM=5m TO=5.9m
meas tran iload_high AVG i(V_LOAD) FROM=7.5m TO=8.5m
meas tran iload_post AVG i(V_LOAD) FROM=9.5m TO=11m
meas tran vout_min MIN v(out) FROM=6m TO=9m
meas tran vout_max MAX v(out) FROM=6m TO=11m
meas tran pin_energy INTEG pin FROM=0 TO=20m
meas tran pout_energy INTEG pout FROM=0 TO=20m
write waveform.raw time v(out) v(in) v(vin_node) i(V_IN) i(V_LOAD) i(L_OUT) v(fb) v(sw)
quit
.endc
.end
